US07786110B2
A solution of LiOH hydrate (20 mg) in H2O (5 mL) was added dropwise to a suspension of 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester (85 mg, 0.2 mmol) in THF (1 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred until the reaction solution turned clear. Solvent was removed under vacuum and the resulting aqueous solution was acidified by 10% HCl to pH=6-7. The resulting precipitate was collected and dried to afford 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid (68 mg, 95%), MS (M+H)=339.

reactant | LiOH hydrate | 20 mg | O[Li].O
reactant | 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 0.2 mmol, 85 mg | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)I)=O | C14H12INO2
solvent | H2O | 5 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid | 68 mg, 95% | IC=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C13H10INO2
